US07666659B2
Process for Producing Optically Active ethyl 2-(hydroxymethyl)-3-phenylpropionate
A liquid medium (pH 7.0) was prepared so as to contain 4% glucose, 0.3% of yeast extract, 1.3% of KH2PO4, 0.7% of (NH4)2HPO4, 0.01% of NaCl, 0.08% of MgSO4.7H2O, 0.006% of ZnSO4.7H2O, 0.009% of FeSO4.7H2O, 0.0005% of CuSO4.5H2O, and 0.001% of MnSO4.4 to 5 H2O. The liquid medium was dispensed to large test tubes in an amount of 5 ml per each tube and the test tubes were sterilized by steam at 120° C. for 20 minutes. The liquid medium was inoculated each of the microorganisms shown in Table 3 by a platinum loop and incubated with shaking at 30° C. for 2 to 3 days. Microbial cells were centrifugally collected from each culture solution, and washed with water. After ice cold acetone was added, the cells were dried under reduced pressure to obtain acetone dried microbial cells. 5 mg of the acetone dried microbial cells, 2 mg of ethyl 2-formyl-3-phenylpropionate, 10 mg of glucose, 1 mg of NAD (or NADP), 0.5 ml of 0.1M phosphate buffer (pH=6.5) and 0.5 ml of ethyl acetate were added to each test tube with a cap and shaken at 30° C. for 24 ours. Subsequently, the same operation as in Example 9 was performed to determine a conversion rate and optical purity. The results are shown in Table 3.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ethyl 2-formyl-3-phenylpropionate | 2 mg | C(=O)C(C(=O)OCC)CC1=CC=CC=C1 | C12H14O3
reactant | glucose | 10 mg | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NAD | 1 mg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | NADP | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | phosphate | 0.1M, 0.5 ml, pH=6.5 | P(=O)([O-])([O-])[O-]
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 5 mg | CC(=O)C | C3H6O
product | ethyl 2-(hydroxymethyl)-3-phenylpropionate | OCC(C(=O)OCC)CC1=CC=CC=C1 | C12H16O3
